*-----------------------------------------------------------------------------
*
*** Voltage comparators
*
* The parameters in this comparator library were derived from data sheets for
* each parts.  The macromodel used was developed by MicroSim Corporation, and
* is produced by the "Parts" option to PSpice.
*
* Although we do not use it, another comparator macro model is described in:
*
*       An Integrated-Circuit Comparator Macromodel
*         by Ian Getreu, Andreas Hadiwidjaja, and Johan Brinch
*       IEEE Journal of Solid-State Circuits, Vol. SC-11, no. 6, Dec. 1976
*
* This reference covers the considerations that go into duplicating the
* behavior of voltage comparators.
*
* The comparators are modelled at room temperature.  The macro model does not
* track changes with temperature.  This library file contains models for
* nominal, not worst case, devices.
*
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM111    1 2 3 4 5 6
*
  f1    9  3 v1 1
  iee   3  7 dc 100.0E-6
  vi1  21  1 dc .45
  vi2  22  2 dc .45
  q1    9 21  7 qin
  q2    8 22  7 qin
  q3    9  8  4 qmo
  q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=833.3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=118.8E-9)
  e1   10  6  9  4  1
  v1   10 11 dc 0
  q5    5 11  6 qoc
.model qoc NPN(Is=800.0E-18 Bf=34.49E3 Cjc=1E-15 Tf=364.6E-12 Tr=79.34E-9)
  dp    4  3 dx
  rp    3  4 6.122E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends

*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM119    1 2 3 4 5 6
*
  f1    3  9 v1 1
  iee   7  4 dc 100.0E-6
  q1    9  2  7 qin
  q2    8  1  7 qin
  q3    9  8  3 qmo
  q4    8  8  3 qmi
.model qin NPN(Is=800.0E-18 Bf=333.3)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=59.42E-9)
  e1   10  6  3  9  1
  v1   10 11 dc 0
  q5    5 11  6 qoc
.model qoc NPN(Is=800.0E-18 Bf=41.38E3 Cjc=1E-15 Tf=23.91E-12 Tr=24.01E-9)
  dp    4  3 dx
  rp    3  4 5.556E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends

*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM211    1 2 3 4 5 6
*
  x_lm211 1 2 3 4 5 6 LM111
*
* the LM211 is identical to the LM111, but has a more limited temp. range
*
.ends

*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM311    1 2 3 4 5 6
*
f1    9  3 v1 1
iee   3  7 dc 100.0E-6
vi1  21  1 dc .45
vi2  22  2 dc .45
q1    9 21  7 qin
q2    8 22  7 qin
q3    9  8  4 qmo
q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=500)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=124.2E-9)
e1   10  6  9  4  1
v1   10 11 dc 0
q5    5 11  6 qoc
.model qoc NPN(Is=800.0E-18 Bf=206.9E3 Cjc=1E-15 Tf=7.855E-12 Tr=83.83E-9)
dp    4  3 dx
rp    3  4 7.087E3
.model dx  D(Is=800.0E-18)
*
.ends

*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM319    1 2 3 4 5 6
*
  x_lm319 1 2 3 4 5 6 LM119
*
* the LM319 is identical to the LM119, but has a more limited temp. range
*
.ends
*-----------------------------------------------------------------------------

* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | |
.subckt LM139    1 2 3 4 5
*LIDO PARA: LM139 LM193 LM239 LM293 LM339 LM393 LM3302
  f1    9  3 v1 1
  iee   3  7 dc 100.0E-6
  vi1  21  1 dc .75
  vi2  22  2 dc .75
  q1    9 21  7 qin
  q2    8 22  7 qin
  q3    9  8  4 qmo
  q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=2.000E3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=475.4E-9)
  e1   10  4  9  4  1
  v1   10 11 dc 0
  q5    5 11  4 qoc
.model qoc NPN(Is=800.0E-18 Bf=20.69E3 Cjc=1E-15 Tf=3.540E-9 Tr=472.8E-9)
  dp    4  3 dx
  rp    3  4 37.50E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends

.subckt LM193    1 2 3 4 5
*
  x_lm193 1 2 3 4 5 LM139
*
* the LM193 is identical to the LM139, but in a different package
*
.ends

.subckt LM239    1 2 3 4 5
*
  x_lm239 1 2 3 4 5 LM139
*
* the LM239 is identical to the LM139, but has a more limited temp. range
*
.ends

.subckt LM293    1 2 3 4 5
*
  x_lm293 1 2 3 4 5 LM139
*
* the LM293 is identical to the LM239, but in a different package
*
.ends

.subckt LM339    1 2 3 4 5
*
  x_lm339 1 2 3 4 5 LM139
*
* the LM339 is identical to the LM139, but has a more limited temp. range
*
.ends

*
* LM339 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/07/90 AT 14:17
* REV (N/A)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OPEN COLLECTOR OUTPUT
*                | | | | |
.SUBCKT LM_339    1 2 3 4 5
*
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .75
  VI2  22  2 DC .75
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
  E1   10  4  9  4  1
  V1   10 11 DC 0
  Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=20.29E3 CJC=1E-15 TF=942.6E-12 TR=543.8E-9)
  DP    4  3 DX
  RP 3  4 46.3E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS

* Model for packaged LM339 devices
* 14-pin DIP, 4 comparators per package
* CONNECTIONS:      Output 2
*                   | Output 1
*                   | | Positive Power Supply 
*                   | | | Input 1 Inverting
*                   | | | | Input 1 Non-Inverting
*                   | | | | | Input 2 Inverting
*                   | | | | | | Input 2 Non-Inverting
*                   | | | | | | | Input 3 Inverting
*                   | | | | | | | | Input 3 Non-inverting
*                   | | | | | | | | | Input 4 Inverting
*                   | | | | | | | | | |  Input 4 Non-inverting
*                   | | | | | | | | | |  |  Negative Power Supply (or Gnd)
*                   | | | | | | | | | |  |  |  Output 4
*                   | | | | | | | | | |  |  |  |  Output 3
*                   | | | | | | | | | |  |  |  |  |
.SUBCKT LM339_DIP14 1 2 3 4 5 6 7 8 9 10 11 12 13 14
X1 5  4  3 12 2  LM_339
X2 7  6  3 12 1  LM_339
X3 9  8  3 12 14 LM_339
X4 11 10 3 12 13 LM_339
.ENDS

*
.subckt LM393    1 2 3 4 5
*
  x_lm393 1 2 3 4 5 LM139
*
* the LM393 is identical to the LM339, but in a different package
*
.ends

.subckt LM3302   1 2 3 4 5
*
  x_lm3302 1 2 3 4 5 LM139
*
* the LM3302 is identical to the LM139, but has a more limited temp. range
*
.ends

.SUBCKT LM139/TEMP 1 2 3 4 5
X6 3 34 LED
RE 3 35 8.4K
RS1 34 4 30.5K
Q8 7 34 35 QKI
DV1 21 1 DX
DV2 22 2 DX
Q1 9 21 7 QIN
Q2 8 22 7 QIN
Q3 9 9 4 QMO
Q4 8 9 4 QMO
Q7 11 190 19 QKI
Q6 11 8 4 QN
.MODEL QN NPN(
+         IS = 0.8F
+         BF = 250
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 7.5N
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 0
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 350N
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
RE1  3 19  8.4K
RS2 190 4 30.5K
XLED2 3 190 LED
Q5 5 11 4 QOC
.MODEL QOC NPN(
+         IS = 0.8F
+         BF = 20290
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 20N
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 1E-15
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 543.8E-9
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
.MODEL QIN PNP(
+         IS = 0.8F
+         BF = 200
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 0
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 1E-15
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 0
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
.MODEL QMO NPN(
+         IS = 0.8F
+         BF = 200
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 0
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 1E-15
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 807.4E-9
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
.MODEL QKI PNP(
+         IS = 0.8F
+         BF = 1000
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 0
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 1E-15
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 0
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
.MODEL DX D(
+         IS = 0.8F
+         RS = 0.0001
+          N = 1
+         TT = 0
+        CJO = 1E-15
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
.subckt LED A B
D1 A C  LXHL-B5Chalf
D2 C B  LXHL-B5Chalf
.model LXHL-B5Chalf   D(Is=1.0e-20 Rs=0.5  N=2.6  Cjo=2n Eg=3.55 TRS1=0.004)
.ends
*.model LED D(Is=3e-22 N=1.5 RS=10 Eg=2.3 Cjo=10p)
*.ends
.ENDS LM139/TEMP

*
* Model from Jim Thompson's website
* http://www.analog-innovations.com/subcircuits.html
**** LM339 Subcircuit ****
*******************************************
***** NODES: IN+ IN- OUT Vee **************
*.SUBCKT LM339 1   2   3   4     
.SUBCKT LM339_jim 1   2   100   4   3           
Rin1 1 0 1E8                                 
Rin2 2 0 1E8                                 
E 5 4 1 2 7    ; GAIN, 7 => x105 V/mV
Re 5 4 1E8
L1 5 12 375U        ;
R1 12 13 6.125K     ;
C1 13 4 10P         ;
L2 13 14 375U       ;
R2 14 15 6.125K     ; DELAY (LUMPED LINE)
C2 15 4 10P         ;
L3 15 16 375U       ;
R3 16 6 6.125K      ;
C3 6 4 10P          ;
G 7 4 6 4 1
Rg 7 4 10K                                 
D1 8 7 D                                   
D2 8 10 D                                  
D3 7 9 D                                   
D4 10 9 D                                  
Ilim 9 8 6m ; OUTPUT SINK CAPABILTY     
Rilim 9 8 1E8                              
D5 4 10 D                                  
Rd5 4 10 1E8                               
Q 3 10 4 N                                 
Co 3 4 5P                                  
.MODEL D D                                 
.MODEL N NPN(BF=1)                         
.ENDS LM339_jim

*
** Standard Linear Ics Macromodels, 1993. 
** CONNECTIONS :
* 1 INVERTING INPUT
* 2 NON-INVERTING INPUT
* 3 OUTPUT
* 4 POSITIVE POWER SUPPLY
* 5 NEGATIVE POWER SUPPLY
*.SUBCKT LM193 1 3 2 4 5 (analog)
.SUBCKT LM193A 2 1 4 5 3 **********************************************************
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
* INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 438.3U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 5.5E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 0.175 
FCN 5 4 VOFN 0.175 
FIBP 2 0 VOFN 2.000000E-08
FIBN 0 1 VOFP 2.000000E-08
* AMPLIFYING STAGE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104 
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1 
.MODEL NMOD NPN(IS=0.1E-09 BF=4000)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
DSTOP 32 103 MDTH 400E-12
HSTOP 32 33 VNUL 135
VSTOP 33 5 0.5
.ENDS

*
* MAX9119 MACROMODEL
* ------------------------------
* Revision 0, 9/2003
* ------------------------------
* The MAX9119 family of nanopower comparators in space saving SC70 packages feature
* Beyond-the-Rails inputs and operate from supply as low as +1.8V and draw an ultra 
* low supply current of only 450nA. 
* ------------------------------
* Connections
*          1  = OUT
*          2  = VEE
*          3  = IN+
*          4  = IN-  
*          5  = VCC
***************************
.SUBCKT MAX9119 1 2 3 4 5
 XCOMP 3 4 1 2 5 COMP
.ENDS
***************************

***************************
.SUBCKT COMP 10 18 55 23 56
* 10 = VCC
* 18 = VEE
* 55 = IN+
* 23 = IN-
* 56 = OUT
*****************
VS1 10 11 0V    
RNC1 11 12 200K
RNC2 11 13 200K
IPBIAS 11 14 500NA
RBIAS 14 25 10G
RPE1 15 14 10M
RPE2 16 14 10M
Q1 20 22 15 QPA
Q2 21 23 16 QPB
Q3 12 22 19 QNA
Q4 13 23 24 QNB
RNE1 19 17 10M
RNE2 24 17 10M
INBIAS 17 18 500NA
RPC1 20 18 200K
RPC2 21 18 200K
FSUP 18 10 VS1 1 
VOS 29 30 1M
EPSRR 30 67 10 18 0.1M
ECMRR 67 55 14 18 0.5M
*INPUT PROTECTION DIODES 
DIN1 55 73 DA
DIN2 74 55 DA
DIN3 23 73 DA
DIN4 74 23 DA
VINL1 73 10 0.25
VINL2 18 74 0.25
*****************
EG 25 18 10 18 0.5 
*****************
*INPUT REFERED HYSTERISIS
GH 25 26 21 20 1
RH 25 26 1MEG
CH 26 27 10P
DL1 26 27 DA  
VL1 27 25 1V
DL2 28 26 DA
VL2 25 28 1V
EHYST 22 29 26 25 2M
*****************
*PROPAGATION DELAY 
GPS1 25 69 26 25 10M
RPS1 69 25 1MEG
DPS1 69 70 DA
VPS1 70 71 0.35
EPS1 71 25 66 65 184M 
DPS2 72 69 DA
VPS2 25 72 1V
GPS2 25 33 69 25 916.4U
CS3 69 25 0.1P
CP 33 25 10N
DPS3 31 33 DA
VPS3 25 31 1V
DPS4 33 32 DA
VPS4 32 25 1V
********* 
EP2 34 25 33 25 1
EHP 35 34 37 25 283M
RP3 35 36 1K
VIS1 36 25 0V
FP1 25 37 VIS1 10
RP4 37 25 1MEG
DP3 37 38 DA
DP4 39 37 DA
VP1 38 25 1V
VP2 25 39 1V
CP1 37 25 10P
*****************
*OUTPUT VOLTAGE LIMITS
GOUT 25 40 37 25 1M
ROUT 40 25 5K
DOL1 40 41 DA
DOL2 42 40 DA
EOL1 41 25 10 18 0.5 
EOL2 25 42 10 18 0.5
COL 40 25 1P
*****************
*RISE AND FALL TIMES
EOUT1 43 25 40 25 1
DT1 43 44 DA
DT2 45 43 DA
RT1 44 46 8K
RT2 45 46 1K
CT1 46 25 65P
*****************
*OUTPUT CURRENT LIMIT
EOUT2 47 25 46 25 1
ROUT2 47 48 40
DCL1 48 49 DB
DCL2 50 48 DB
DCL3 51 49 DB
DCL4 50 51 DB
ICL 49 50 3M
*SUPPLY VOLTAGE DEPENDENT CURRENT LIMIT 
GCL 49 50 52 53 10M 
EVR 52 25 10 18 1
RVR 52 53 1MEG
DVR 53 54 DA
VVR 54 25 1.8V
*****************
*SUPPLY CURRENT
ISUP 10 18 450NA
VIS2 51 56 0V
FSUP1 25 57 VIS2 1
DSUP1 25 57 DB
DSUP2 57 58 DB 
VIS3 58 25 0V
FSUP2 10 18 VIS3 1
*****************
*SUPPLY VOLTAGE LIMITS
DBIAS 18 14 DA
EMAX 59 25 10 18 1
DMAX 59 60 DA
RMAX 60 61 1K
VMAX 61 25 5.5V
FMAX 14 18 VMAX 0.1
******
EMIN 62 25 10 18 1
DMIN 63 62 DA
RMIN 64 63 1K
VMIN 64 25 1.8V
FMIN 14 18 VMIN -0.1
******************
EREF1 65 25 10 18 1
RREF1 65 66 1MEG
VREF1 66 25 5V
**********************************************************
.MODEL QPA PNP(IS=800E-18 BF=3600)
.MODEL QNA NPN(IS=800E-18 BF=3600)
.MODEL QPB PNP(IS=800E-18 BF=2220)
.MODEL QNB NPN(IS=800E-18 BF=2220)
.MODEL DA D(N=0.1M)
.MODEL DB D(IS=100E-14)
**********************************************************
.ENDS
